US04762942
2-Ethyl-5-tetradecylphenol
A 15.6 g portion of 1-(2-hydroxy-4-tetradecylphenyl)-ethanone was heated in a mixture of 120 ml of acetic acid and 30 ml of methanol until solution was complete. A 4 g portion of 5% palladium on carbon was added and the mixture was hydrogenated in a Parr apparatus for 18 hours. The mixture was then filtered through diatomaceous earth and the solvents removed under reduced pressure, giving 14.5 g of the desired compound, mp 59°-60° C.

reactant | 1-(2-hydroxy-4-tetradecylphenyl)-ethanone | OC1=C(C=CC(=C1)CCCCCCCCCCCCCC)C(C)=O | C22H36O2
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 2-Ethyl-5-tetradecylphenol | 14.5 g | C(C)C1=C(C=C(C=C1)CCCCCCCCCCCCCC)O | C22H38O
